US06265426B1
A solution of 3-[2-(3,4-dichloro-phenyl)-3H-imidazol-4-yl]-benzylamine (1.59 g, 5.0 mmol) and triethylamine (1.01 g, 10.0 mmol) in THF (32 ml) was cooled in an ice bath and treated with a solution of ethyl chloroformate (1.08 g, 10 mmol) in THF (10 ml). The resulting mixture was stirred at r.t. for 1 hr., filtered, treated with 1.14 g (30 mmol) lithium aluminum hydride and refluxed for 2 hrs. Then saturated Seignette-salt solution (6 ml) was added slowly and stirring was continued for 30 min. The precipitate was filtered and the organic phase evaporated and chromatographed over SiO2 with CH2Cl2—CH3OH—NH4OH (200:10:1) to obtain {3-[2-(3,4-dichloro-phenyl)-3H-imidazol-4-yl]-benzyl}-methyl-amine (0.91 g, 55%) as an oil which after HCl/MeOH addition was crystallized as a light yellow hydrochloride salt. Mp. 145° C. (dec.) (MeOH/Ipr2O), MS: m/e=332 (M+H+).

reactant | 3-[2-(3,4-dichloro-phenyl)-3H-imidazol-4-yl]-benzylamine | 5.0 mmol, 1.59 g | ClC=1C=C(C=CC1Cl)C1=NC=C(N1)C=1C=C(CN)C=CC1 | C16H13Cl2N3
reactant | triethylamine | 10.0 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 10 mmol, 1.08 g | ClC(=O)OCC | C3H5ClO2
reactant | lithium aluminum hydride | 30 mmol, 1.14 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 32 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | {3-[2-(3,4-dichloro-phenyl)-3H-imidazol-4-yl]-benzyl}-methyl-amine | 0.91 g, 55% | ClC=1C=C(C=CC1Cl)C1=NC=C(N1)C=1C=C(CNC)C=CC1 | C17H15Cl2N3
